US06943159B1
3-Bromo-4-methylaniline was transformed by Method B (The isomers were separated by fractional crystallization from MeOH) to give 2-amino-4-bromo-5-methylbenzenesulfonamide. A mixture of 2-amino-4-bromo-5-methylbenzenesulfonamide (100 mg, 0.38 mmol), 2-methoxyphenylboronic acid (76 mg, 0.50 mmol), Pd(PPh3)2Cl2 (13 mg, 5 mol %) in 1,2-dimethoxyethane (20 ml) and Na2CO3 (2M, 1 ml, 2 mmol) were refluxed under N2 for 4 h. The solvents were removed under reduced pressure and the residue was treated with saturated NaHCO3 (10 ml) and extracted with EtOAc (2×25 ml). The organic layer was washed with brine (20 ml), dried (Na2SO4) and the solvent was removed under reduced pressure. The product was purified by flash chromatography on SiO2 using EtOAc:n-hexane (1:1, v/v) as eluent, yielding 100 mg (90%) of 2-amino-4-(2-methoxyphenyl)-5-methylbenzenesulfonamide as colorless powder. The product was further transformed by Method G (using cyclohexanecarboxaldehyde). M.p. 172-175° C.

reactant | 2-amino-4-bromo-5-methylbenzenesulfonamide | 0.38 mmol, 100 mg | NC1=C(C=C(C(=C1)Br)C)S(=O)(=O)N | C7H9BrN2O2S
reactant | 2-methoxyphenylboronic acid | 0.50 mmol, 76 mg | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | Na2CO3 | 2 mmol, 2M, 1 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
catalyst | Pd(PPh3)2Cl2 | 13 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-amino-4-(2-methoxyphenyl)-5-methylbenzenesulfonamide | 100 mg, 90% | NC1=C(C=C(C(=C1)C1=C(C=CC=C1)OC)C)S(=O)(=O)N | C14H16N2O3S
